US04985419
A mixture of 7-chloro-10-[(2RS)-1-ethylamino-2-propyl]-2-phenothiazinecarbonitrile (5 g), iodethane (2.2 cc) and sodium carbonate (2 g) in dimethylformamide (50 cc) is charged, and the mixture is brought for 9 hours to 160° C. After cooling, the reaction mixture is poured into a mixture of distilled water (500 cc) and ethyl acetate (500 cc). The organic phase is separated after settling has taken place, washed with distilled water (4×300 cc), dried over magnesium sulphate, filtered and concentrated to dryness at 40° C. under reduced pressure (30 mm Hg; 4 kPa) to give 7-chloro-10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarbonitrile (5 g).

reactant | 7-chloro-10-[(2RS)-1-ethylamino-2-propyl]-2-phenothiazinecarbonitrile | 5 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(CNCC)C)C#N | C18H18ClN3S
reactant | iodethane | 2.2 cc | ICC | C2H5I
reactant | sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 500 cc | O | H2O
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 cc | C(C)(=O)OCC | C4H8O2
product | 7-chloro-10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarbonitrile | 5 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(CN(CC)CC)C)C#N | C20H22ClN3S
